US09382238B2
A mixture of 3-nitro-5-(trifluoromethyl)benzohydrazide (20 g, 80 mmol) in 1,1,1-triethoxyethane (156 g, 963 mmol) was heated to reflux and stirred for 12 h. Then the solvent was concentrated to yield a black solid of 2-methyl-5-(3-nitro-5-(trifluoromethyl)phenyl)-1,3,4-oxadiazole (20 g, 65.9 mmol, 82% yield): 1H NMR (400 MHz, CD3OD) δ 9.04 (s, 1H), 8.71 (s, 1H), 8.66 (s, 1H), 2.67 (s, 1H); ES-LCMS m/z 274 (M+H).

reactant | 3-nitro-5-(trifluoromethyl)benzohydrazide | 80 mmol, 20 g | [N+](=O)([O-])C=1C=C(C(=O)NN)C=C(C1)C(F)(F)F | C8H6F3N3O3
reactant | 1,1,1-triethoxyethane | 963 mmol, 156 g | C(C)OC(C)(OCC)OCC | C8H18O3
product | 2-methyl-5-(3-nitro-5-(trifluoromethyl)phenyl)-1,3,4-oxadiazole | 65.9 mmol, 20 g, 82% yield | CC=1OC(=NN1)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C10H6F3N3O3
